US07947727B2
Intermediate 11: 1-Phenyl-N-{[2-(trifluoromethyl)-2-oxiranyl]methyl}-1H-indazol-4-amine
Bismuth chloride (623 mg, 1.98 mmol) was added to a suspension of [2-(trifluoromethyl)-2-oxiranyl]methyl 4-methylbenzenesulfonate (5.85 g, 19.76 mmol) and 1-phenyl-1H-indazol-4-amine (4.13 g, 19.76 mmol) in dry dichloromethane (8 ml) and the mixture stirred at room temperature over the weekend. The resulting thick suspension was diluted with dichloromethane and stirred overnight. The mixture was then diluted with chloroform (200 ml) and sodium sulphate (30 g) and polymer supported carbonate resin (Fluka, ca. 3.5 mmoles carbonate/g resin, 11 g) were added and the mixture stirred overnight. LCMS showed no evidence for cyclisation to the target epoxide. Dry tetrahydrofuran (50 ml) and N,N-diisopropylethylamine (0.85 ml, 4.88 mmol) were then added and the mixture stirred overnight when LCMS indicated complete reaction. The mixture was filtered and the filtrate was washed with water. The aqueous phase was back-extracted with dichloromethane and the combined organic phases were dried and evaporated to give crude product which was purified by silica gel chromatography using the Flashmaster II (2×100 g cartridges) eluting with a 0 to 50% dichloromethane:ethyl acetate gradient over 40 minutes to give the title compound (3.74 g).

reactant | Bismuth chloride | 1.98 mmol, 623 mg | [Bi](Cl)(Cl)Cl
reactant | [2-(trifluoromethyl)-2-oxiranyl]methyl 4-methylbenzenesulfonate | 19.76 mmol, 5.85 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1(OC1)C(F)(F)F | C11H11F3O4S
reactant | 1-phenyl-1H-indazol-4-amine | 19.76 mmol, 4.13 g | C1(=CC=CC=C1)N1N=CC=2C(=CC=CC12)N | C13H11N3
reactant | sodium sulphate | 30 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | carbonate | ca. 3.5 mmoles, 11 g | C([O-])([O-])=O
reactant | N,N-diisopropylethylamine | 4.88 mmol, 0.85 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-Phenyl-N-{[2-(trifluoromethyl)-2-oxiranyl]methyl}-1H-indazol-4-amine | 3.74 g | C1(=CC=CC=C1)N1N=CC=2C(=CC=CC12)NCC1(OC1)C(F)(F)F | C17H14F3N3O
